US07473786B1
2-(4-Vinyl-phenyl)-1H-indole (entry 5, Table 1):
The general procedure was used to convert 1-Ethynyl-4-vinyl-benzene and 2-iodoaniline to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 72% yield. 1H NMR (300 MHz, CDCl3) δ 8.31 (s, br, 1H), 7.64-7.61 (d, J=8.29, 3H), 7.49-7.46 (d, J=8.29, 2H), 7.40-7.38 (d, J=8.10, 1H), 7.22-7.16 (dt, J=6.97, 1H), 7.14-7.09 (dt, J=7.91, 1H), 6.84 (s, 1H), 6.78-6.69 (dd, J=10.73, 1H), 5.82-5.76 (dd, J=17.70, 1H), 5.30-5.26 (dd, J=10.73, 1H). Anal. Calcd. for C16H13N: C, 87.64; H, 5.98; N, 6.39.

reactant | 1-Ethynyl-4-vinyl-benzene | C(#C)C1=CC=C(C=C1)C=C | C10H8
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 2-(4-Vinyl-phenyl)-1H-indole | 72% yield | C(=C)C1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C16H13N
